US07320974B2
(Z)-((2R,4R,6R)-2-Methoxy-2-((R)-3-(4-methoxybenzyl)-2-oxothiazolidin-4-yl)-6-phenethyl-tetrahydro-2H-pyran4-yl)-3-Methylhepta-2,6-dienoate
Triflate formation using the method shown in Example 22, with the modification that (R)-4-((2R,4S,6R)-4-hydroxy-2-methoxy-6-phenethyl-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one is substituted for (R)-4-((2R,4S,6R)-4-hydroxy-2-methoxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one, followed by triflate displacement using the method shown in Example 23, affords the title compound.

reactant | Triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | (R)-4-((2R,4S,6R)-4-hydroxy-2-methoxy-6-phenethyl-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | O[C@@H]1C[C@](O[C@@H](C1)CCC1=CC=CC=C1)(OC)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C25H31NO5S
reactant | (R)-4-((2R,4S,6R)-4-hydroxy-2-methoxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | O[C@@H]1C[C@](O[C@@H](C1)CCCC=C)(OC)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C22H31NO5S
product | (Z)-((2R,4R,6R)-2-Methoxy-2-((R)-3-(4-methoxybenzyl)-2-oxothiazolidin-4-yl)-6-phenethyl-tetrahydro-2H-pyran4-yl)-3-Methylhepta-2,6-dienoate | CO[C@]1(O[C@@H](C[C@H](C1)OC(\C=C(/CCC=C)\C)=O)CCC1=CC=CC=C1)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C33H41NO6S
